US07572809B2
e) Preparation of 2-Hydroxyimino-6-methoxy-3-oxo-indan-5-carboxylic acid dimethylamide
To a solution of 6-Methoxy-3-oxo-indan-5-carboxylic acid dimethylamide (2.56 g, 10.97 mmol) in the methanol (40 ml) and dioxane (40 ml) was added n-butylnitrite (1.48 ml, 12.067 mmol) followed by concentrated HCl (1 ml). The solution was stirred at r.t overnight during which time a precipitate was formed. The precipitate was collected and dried to yield a yellow solid (2.8 g, 97%). LC-MS: m/e 263 (MH+).

reactant | 6-Methoxy-3-oxo-indan-5-carboxylic acid dimethylamide | 10.97 mmol, 2.56 g | CN(C(=O)C=1C=C2C(CCC2=CC1OC)=O)C | C13H15NO3
reactant | n-butylnitrite | 12.067 mmol, 1.48 ml | C(CCC)ON=O | C4H9NO2
reactant | HCl | 1 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-Hydroxyimino-6-methoxy-3-oxo-indan-5-carboxylic acid dimethylamide | 2.8 g, 97% | CN(C(=O)C=1C=C2C(C(CC2=CC1OC)=NO)=O)C | C13H14N2O4
